US05424443
2,4-Dichloro-7-(6,6-dimethyl-3,5,6,7-tetrahydropyrrolo-[2,1-c][1,2,4]thiadiazol-3-ylidenamino)-6-fluorobenzothiazole
A solution of 2 g 2,4-dichloro-6-fluoro-7-isothiocyanatobenzothiazole in 10 ml dichloromethane was added, dropwise, at 0° C., to a suspension of 1.1 g 2-amino-4,4-dimethylpyrroline hydrochloride in 20 ml dichloromethane. A solution of 0.3 g sodium hydroxide and 6 ml water was added, dropwise, at 2° C. to this mixture which was stirred for 3 hours, whereby the temperature rose to 20° C. The mixture was cooled to -10° C. and a solution of 1 g bromine in 10 ml dichloromethane was added, dropwise, slowly and the mixture stirred for I hour whereby the temperature rose to 10° C. The solution was washed with water and with dilute caustic soda, dried over magnesium sulfate and concentrated. The residue was recrystallised from diisopropyl ether. Yield: 1.5 g=53% of theory m.p.: 134°-136° C.

reactant | 2,4-dichloro-6-fluoro-7-isothiocyanatobenzothiazole | 2 g | ClC=1SC2=C(N1)C(=CC(=C2N=C=S)F)Cl | C8HCl2FN2S2
reactant | 2-amino-4,4-dimethylpyrroline hydrochloride | 1.1 g | Cl.NC=1NCC(C1)(C)C
reactant | sodium hydroxide | 0.3 g | [OH-].[Na+]
reactant | bromine | 1 g | BrBr | Br2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 6 ml | O | H2O
product | 2,4-Dichloro-7-(6,6-dimethyl-3,5,6,7-tetrahydropyrrolo-[2,1-c][1,2,4]thiadiazol-3-ylidenamino)-6-fluorobenzothiazole | ClC=1SC2=C(N1)C(=CC(=C2N=C2N1C(=NS2)CC(C1)(C)C)F)Cl | C14H11Cl2FN4S2
